US07618975B2
N4-(4-Methoxy-phenyl)-N4-methyl-quinazoline-2,4-diamine
Title compound was prepared from (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (10 mg, 0.033 mmol) and 7 M ammonia in methanol (1 mL) by a procedure similar to example 10 (5 mg, 50%). 1H NMR (CDCl3): 7.44 (m, 2H), 7.16 (m, 2H), 6.96-6.95 (m, 2H), 6.88 (dd, J=8.4 and 1.5 Hz, 1H), 6.72 (ddd, J=8.7, 6.6 and 1.8 Hz, 1H), 3.86 (s, 3H), 3.72 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.033 mmol, 10 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | ammonia | 7 M | N | H3N
solvent | methanol | 1 mL | CO | CH4O
product | N4-(4-Methoxy-phenyl)-N4-methyl-quinazoline-2,4-diamine | COC1=CC=C(C=C1)N(C1=NC(=NC2=CC=CC=C12)N)C | C16H16N4O
